US07666888B2
2-[4-(3,4-dihydroisoquinolin-2(1H)-ylcarbonyl)-3-methylisoxazol-5-yl]-1-phenylethanone
A solution of TBTU (0.48 g, 1.5 mmol, 1.5 eq.) in DMF (2 mL) was added to a mixture of 3-methyl-5-(2-oxo-2-phenylethyl)isoxazole-4-carboxylic acid (0.24 g, 1 mmol, 1 eq), N-ethyl-N-isopropylpropan-2-amine (0.18 mL, 1 eq) and 1,2,3,4-tetrahydroisoquinoline (0.12 mL, 1 eq) in DMF (1 mL). The resulting solution was stirred at room temperature. Chloroform (25 mL) was added and the solution was washed with water and 1 M HCl, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (SiO2 1:2 heptane/EtOAc) to afford the title compound. MS (ESI, POS. ION) M/Z Calcd for C22H20N2O3: 360.1474, found 360.1472.

reactant | TBTU | 1.5 mmol, 0.48 g, 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-methyl-5-(2-oxo-2-phenylethyl)isoxazole-4-carboxylic acid | 1 mmol, 0.24 g, 1 eq | CC1=NOC(=C1C(=O)O)CC(C1=CC=CC=C1)=O | C13H11NO4
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.18 mL, 1 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.12 mL, 1 eq | C1NCCC2=CC=CC=C12 | C9H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(3,4-dihydroisoquinolin-2(1H)-ylcarbonyl)-3-methylisoxazol-5-yl]-1-phenylethanone | C1N(CCC2=CC=CC=C12)C(=O)C=1C(=NOC1CC(=O)C1=CC=CC=C1)C | C22H20N2O3
